US06346539B1
7. Synthesis of 3-benzo-1,3-dioxol-5-ylpropionic Acid Piperidide
The method was adapted from that reported for piperlonguminine (section 2.2) but utilising 3-benzo-1,3-dioxol-5-ylpropionic acid and piperidine as the acid and amine components respectively. A mixture of 3-benzo-1,3-dioxol-5-ylpropionic acid (200 mg, 0.0026 mole, 1 eq) and triethylarnine (0.27 ml, 0.002 mole, 2 eq) in dichloromethane (50 ml) was stirred for 15 min at 0° C. To this mixture methanesulfonyl chloride (0.11 ml, 0.0015 mole, 1.5 eq) was added and stirred for further 30 min at 0° C. Piperidine (0.15 ml, 0.0015 mole, 1.5 eq) was added to the mixture and stirred for 1 h at 0° C. and 1 h at room temperature. Dichloromethane (50 ml) was added to the mixture which was then washed with 5% HCl (3×100 ml), saturated aqueous NaHCO3 (3×100 ml) and water (3×100 ml). The organic fraction was dried over anhydrous sodium sulphate, filtered and rotary evaporated to yield brown oil (65% yield).

reactant | piperlonguminine | CC(C)CNC(=O)/C=C/C=C/C=1C=CC2=C(C1)OCO2 | C16H19NO3
reactant | 3-benzo-1,3-dioxol-5-ylpropionic acid | O1COC2=C1C=CC(=C2)CCC(=O)O | C10H10O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3-benzo-1,3-dioxol-5-ylpropionic acid | 0.0026 mole, 200 mg, 1 eq | O1COC2=C1C=CC(=C2)CCC(=O)O | C10H10O4
reactant | triethylarnine | 0.002 mole, 0.27 ml, 2 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.0015 mole, 0.11 ml, 1.5 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | Piperidine | 0.0015 mole, 0.15 ml, 1.5 eq | N1CCCCC1 | C5H11N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-benzo-1,3-dioxol-5-ylpropionic Acid Piperidide | 65% yield | O1COC2=C1C=CC(=C2)CCC(=O)N2CCCCC2 | C15H19NO3
